US08022208B2
5-Bromopyrimidin-4(3H)-one (578 mg) was dissolved in N,N-dimethylformamide (15 mL), and potassium carbonate (685 mg) and methyl iodide (247 μL) were added, followed by stirring at room temperature for 24 hours. Water was added to the reaction mixture, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain 5-bromo-3-methylpyrimidin-4(3H)-one (337 mg) as a white solid.

reactant | 5-Bromopyrimidin-4(3H)-one | 578 mg | BrC=1C(NC=NC1)=O | C4H3BrN2O
reactant | potassium carbonate | 685 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 247 μL | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-bromo-3-methylpyrimidin-4(3H)-one | 337 mg | BrC=1C(N(C=NC1)C)=O | C5H5BrN2O
